US08222245B2
1,1-Dimethylethyl 7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate
3-Cyano-4-[(1-methylethyl)oxy]benzoic acid (can be prepared as described in WO2005/58848) (302 mg, 1.474 mmol), EDC (339 mg, 1.768 mmol) and HOBT (271 mg, 1.768 mmol) were stirred in DMF (3 ml) for 5 minutes. 1,1-Dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate (Preparation 5) (450 mg, 1.474 mmol) was added and the reaction mixture stirred at RT for 1 hour. There was still some 3-cyano-4-[(1-methylethyl)oxy]benzoic acid acid present. Further quantities of EDC (100 mg) and 1,1-Dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate (100 mg) were added and the reaction stirred for 1 hour. Then the reaction was heated at 80° C. for 3 hours and left standing overnight. The reaction was then heated at 90° C. for 1 hour. EtOAc (70 ml) was added and the reaction mixture washed with sat. NaHCO3 (50 ml) and water (2×70 ml), dried over anhydrous MgSO4 and evaporated. The crude material obtained was subjected to biotage chromatography (EtOAc/hexane 1:2), yielding a white solid on evaporation. Trituration with ether yielded the title compound (320 mg) as a white solid. NMR (400 MHz, d6DMSO) 1.31 (9H, s), 1.38 (6H, d), 1.69 (2H, br. s), 3.06 (2H, broad s), 3.65 (2H, br. s), 4.44 (2H, s), 4.94-5.03 (1H, m), 7.38-7.43 (1H, m), 7.56 (1H, d), 7.84-7.91 (2H, m), 8.40 (1H, dd), 8.50 (1H, d)

reactant | 3-Cyano-4-[(1-methylethyl)oxy]benzoic acid | 1.474 mmol, 302 mg | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
reactant | EDC | 1.768 mmol, 339 mg
reactant | HOBT | 1.768 mmol, 271 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1,1-Dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate | 1.474 mmol, 450 mg | ONC(C=1C=CC2=C(CCCN(C2)C(=O)OC(C)(C)C)C1)=N | C16H23N3O3
reactant | EDC | 100 mg
reactant | 1,1-Dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate | 100 mg | ONC(C=1C=CC2=C(CCCN(C2)C(=O)OC(C)(C)C)C1)=N | C16H23N3O3
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | EtOAc | 70 ml | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl 7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate | 320 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)C(=O)OC(C)(C)C)C1 | C27H30N4O4
